US06046209
1C. (8S)-8-ethyl-1,2-dihydro-8-hydroxy-2-iodomethyl-11H-furano [3,2-f]pyrano[3',4':6,7]indolizino[1,2-b]quinoline-9,12(8H,14H)-dione
Silver nitrate (6.8 g, 0.040 mol) in dry, freshly distilled chloroform (50 mL) and dry pyridine (20 mL) was treated, dropwise, with stirring with a solution of iodine monochloride (6.48 g, 0.0400 mol) in dry chloroform (40 mL) over a two min period. After stirring for 15 min, the mixture was centrifuged; the supernatent was then added to a solution of (S)-9-allyl-10-hydroxycamptothecin (3.92 g, 0.00960 mol) in dry chloroform (15 mL) giving a deep amber solution which was stirred overnight at ambient temperature. The solution was concentrated to a small volume and then partitioned between methylene chloride and water. After separation of the layers, the aqueous phase was re-extracted with methylene chloride. The combined organic layer was washed successsively with ice cold 5% aq. HCl, dilute sodium thiosulfate solution, and finally with water. The solution was dried (sodium sulfate) and evaporated to a golden-brown residue which was triturated with a small amount of cold methanol to afford the title compound as a light brown solid. (2.25 g, 44%). 1H NMR (400 MHz, CDCl3) δ 8.10 (d, J=4.3 Hz, 1H), 8.07 (d, J=9.2 Hz, 1H), 7.61 (s, 1H), 7.40 (dd, J=7.1 Hz and J=2.0 Hz, 1H), 5.73 (d, J=16.3 Hz, 1H), 5.29 (d, J=16.3 Hz, 1H), 5.26 (s, 2H), 5.20-5.10 (m, 1H), 3.83-3.81 (m, 1H), 3.72-3.70 (m, 1H), 3.57-3.54 (m, 1H), 3.49-3.46 (m, 1H), 3.39-3.38 (m, 1H), 1.92-1.84 (m, 2H), 1.03 (t, J=7.3 Hz, 3H). Anal.: (C23H19IN2O5.1/2H2O) calcd.: C, 51.22; H, 3.74; N, 5.19 found: C, 51.03; H, 3.56; N, 4.87.

reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | iodine monochloride | 0.0400 mol, 6.48 g | ICl | ClI
reactant | (S)-9-allyl-10-hydroxycamptothecin | 0.00960 mol, 3.92 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC(=C(C5=C4)CC=C)O)O | C23H20N2O5
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Silver nitrate | 0.040 mol, 6.8 g | [N+](=O)([O-])[O-].[Ag+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | (8S)-8-ethyl-1,2-dihydro-8-hydroxy-2-iodomethyl-11H-furano [3,2-f]pyrano[3',4':6,7]indolizino[1,2-b]quinoline-9,12(8H,14H)-dione | C(C)[C@]1(C(OCC=2C(N3CC=4C(=NC5=CC=C6C(=C5C4)CC(O6)CI)C3=CC21)=O)=O)O | C23H19IN2O5
